US06747048B2
Compound 1c: 3-Isopropyl-4-methoxyphenol
To a solution of 3-isopropyl-4-methoxybenzaldehyde (12.5 g, 70 mmol) in MeOH(140 mL) was added concentrated sulfuric acid (1.2 mL) followed by dropwise addition of 30% by wt aqueous hydrogen peroxide(6 g, 20 mL, 176 mmol). The mixture was left to stir at ambient room temperature. After 3 hours, the mixture was concentrated in vacuo to about ⅓ of the reaction volume. The concentrate was partitioned between EtOAc (100 mL) and brine (50 mL). The EtOAc extract was washed with brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to give 13.5 g of dark oil as crude product. The crude product was purified by chromatography (250 g silica gel, 10% EtOAc in hexane) to afford 10.1 g (86%) of compound 1c as a thick oil that eventually solidified.

reactant | 3-isopropyl-4-methoxybenzaldehyde | 70 mmol, 12.5 g | C(C)(C)C=1C=C(C=O)C=CC1OC | C11H14O2
reactant | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 176 mmol, 20 mL, 6 g | OO | H2O2
solvent | MeOH | 140 mL | CO | CH4O
product | 3-Isopropyl-4-methoxyphenol | 13.5 g | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
